US04347254
A mixture of methanol (12 ml), 10% aqueous sodium hydroxide (12 ml), tetrahydrofuran (12 ml) and 2,2-bisethoxycarbonyl-5-norbornene (2.38 g) was stirred at room temperature for 24 hours and concentrated under reduced pressure. The residue was diluted with water, made acidic with 10% hydrochloric acid (HCl) solution and extracted with ether. The extract was washed with water and dried. Removal of the solvent gave as an oil 2,2-dicarboxy-5-norbornene (Compound No. 2-1) (1.63 g). IRνmaxfilm (cm-1): 2990, 1710, 1340.

reactant | methanol | 12 ml | CO | CH4O
reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | 2,2-bisethoxycarbonyl-5-norbornene | 2.38 g | C(C)OC(=O)C1(C2C=CC(C1)C2)C(=O)OCC | C13H18O4
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 2,2-dicarboxy-5-norbornene | 1.63 g | C(=O)(O)C1(C2C=CC(C1)C2)C(=O)O | C9H10O4
